US05538969
(E)-6-(4-amino-1,3-dihydro-6-methoxy-7-methyl -3-oxoisobenzofuran-5yl)-3(RS),4-dimethyl-4-hexenoic acid;
(E)-2-[2-[2-[4-amino-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]ethylidene]cyclohex-1(S)-yl]acetic acid, mp 175°-177° C. (tert butylmethyl ether); and

reactant | (E)-2-[2-[2-[4-amino-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]ethylidene]cyclohex-1(S)-yl]acetic acid | NC1=C2C(OCC2=C(C(=C1C\C=C/1\[C@@H](CCCC1)CC(=O)O)OC)C)=O | C20H25NO5
solvent | tert butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | (E)-6-(4-amino-1,3-dihydro-6-methoxy-7-methyl -3-oxoisobenzofuran-5yl)-3(RS),4-dimethyl-4-hexenoic acid | NC1=C2C(OCC2=C(C(=C1C/C=C(/C(CC(=O)O)C)\C)OC)C)=O | C18H23NO5
